US06306852B1
3-{1-(1,3-Benzodioxol-5-yl)-2-[(4-isopropylphenyl)sulfonamido]-2-oxoethyl}-1-methyl-6-(4H-1,2,4-triazol-3-yl)-1H-indole
Dimethylformamide dimethylacetal (10 ml) was added to 3-{1-(1,3-benzodioxol-5-yl)-2-[(4-isopropylphenyl)sulfonamido]-2-oxoethyl}-1-methyl-1H-6-indolecarboxamide (the compound of Example 28, 180 mg, 0.36 mmol) and the slurry was heated at reflux for 48 h. The solvent was removed in vacuo and the residue redissolved in glacial acetic acid (8 ml). Hydrazine hydrate (12 mg, 4.68 mmol) was added and the solution heated at reflux for 24 h. After cooling the crude product was extracted from brine (50 ml) with ethyl acetate (2×50 ml). The organic layers were dried (MgSO4) and concentrated. Flash column chromatography (elution with 96% dichloromethane/4% methanol) gave the desired product as a pale yellow solid.

reactant | 3-{1-(1,3-benzodioxol-5-yl)-2-[(4-isopropylphenyl)sulfonamido]-2-oxoethyl}-1-methyl-1H-6-indolecarboxamide | O1COC2=C1C=CC(=C2)C(C(=O)NS(=O)(=O)C2=CC=C(C=C2)C(C)C)C2=CN(C1=CC(=CC=C21)C(=O)N)C | C28H27N3O6S
reactant | Hydrazine hydrate | 4.68 mmol, 12 mg | O.NN
reactant | Dimethylformamide dimethylacetal | 10 ml | COC(N(C)C)OC | C5H13NO2
product | 3-{1-(1,3-Benzodioxol-5-yl)-2-[(4-isopropylphenyl)sulfonamido]-2-oxoethyl}-1-methyl-6-(4H-1,2,4-triazol-3-yl)-1H-indole | O1COC2=C1C=CC(=C2)C(C(=O)NS(=O)(=O)C2=CC=C(C=C2)C(C)C)C2=CN(C1=CC(=CC=C21)C2=NN=CN2)C | C29H27N5O5S
